US07365088B2
(ii) 1H-Indazole-3-carboxylic acid [4-(2-oxo-pyrrolidin-1-yl)-phenyl]-amide
To a solution of 50 mg 1H-Indazole-3-carboxylic acid in 2 mL DCM and 0.2 mL NEt3, 108 mg 1-(4-Amino-phenyl)-pyrrolidin-2-one and 79 mg BOP-Cl were added at RT and the mixture was stirred for 16 h. After the addition of 5 mL water the mixture was filtered through a chem elut® cartridge by elution with ethyl acetate and then concentrated under reduced pressure. The residue was directly subjected to the subsequent alkylation reaction without further purification.

reactant | 1H-Indazole-3-carboxylic acid | 50 mg | N1N=C(C2=CC=CC=C12)C(=O)O | C8H6N2O2
reactant | 1-(4-Amino-phenyl)-pyrrolidin-2-one | 108 mg | NC1=CC=C(C=C1)N1C(CCC1)=O | C10H12N2O
reactant | BOP-Cl | 79 mg | C1COC(=O)N1P(=O)(N2CCOC2=O)Cl | C6H8ClN2O5P
reactant | water | 5 mL | O | H2O
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | NEt3 | 0.2 mL | CCN(CC)CC | C6H15N
product | 1H-Indazole-3-carboxylic acid [4-(2-oxo-pyrrolidin-1-yl)-phenyl]-amide | O=C1N(CCC1)C1=CC=C(C=C1)NC(=O)C1=NNC2=CC=CC=C12 | C18H16N4O2
